US07910592B2
To a solution of 6-iodoindan-5-amine (135 mg, 0.52 mmol) in DMF (2 mL), was added copper (I) cyanide (93 mg, 1.04 mmol). The mixture was heated at 160° C. for 1.5 h. The reaction mixture was poured into 10% NH4OH. An equal amount of CH2Cl2 was added and resulting mixture was filtered. The filtrate was partitioned between two layers. The aqueous layer was extracted with CH2Cl2 (1×). The combined organic layers were concentrated in vacuo. The residue was dissolved in Et2O. The Et2O layer was washed with aqueous Na2S2O3, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (Si, hexanes/EtOAc) yielding 6-aminoindane-5-carbonitrile. LCMS calc.=159.1; found=159.1 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.22 (s, 1H), 6.64 (s, 1H), 4.25 (br, s, 2H), 2.85 (t, J=7.4 Hz, 2H), 2.80 (t, J=7.4 Hz, 2H), 2.09-2.03 (m, 2H).

reactant | 6-iodoindan-5-amine | 0.52 mmol, 135 mg | IC1=C(C=C2CCCC2=C1)N | C9H10IN
reactant | copper (I) cyanide | 1.04 mmol, 93 mg | [Cu]C#N
reactant | NH4OH | [NH4+].[OH-]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-aminoindane-5-carbonitrile | NC1=C(C=C2CCCC2=C1)C#N | C10H10N2
